US08633173B2
1-(3-{8-[4-(Dimethyl-phosphinoyl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino}-phenyl)-4-methyl-piperazin-2-one was prepared from 2-chloro-8-[4-(dimethyl-phosphinoyl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridine (100.0 mg, 0.3271 mmol) and 1-(3-amino-phenyl)-4-methyl-piperazin-2-one (75.0 mg, 0.365 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (28.0 mg, 0.0512 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a pale yellow solid (0.076 g, 49%). MP=208-211° C. 1H NMR (400 MHz, CDCl3, δ, ppm): 8.48 (d, J=6.8 Hz, 1H), 8.14 (d, J=7.8 Hz, 2H), 7.92-7.85 (m, 2H), 7.69 (s, 1H), 7.64 (d, J=7.3 Hz, 1H), 7.43 (d, J=8.1 Hz, 1H), 7.37 (t, J=7.9 Hz, 1H), 7.01 (t, J=7.1 Hz, 1H), 6.97-6.90 (m, 2H), 3.80-3.75 (m, 2H), 3.32 (s, 2H), 2.85-2.80 (m, 2H), 2.43 (s, 3H), 1.80 (s, 3H), 1.77 (s, 3H). MS=475 (MH)+.

reactant | 2-chloro-8-[4-(dimethyl-phosphinoyl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridine | 0.3271 mmol, 100.0 mg | ClC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)P(=O)(C)C)=N1 | C14H13ClN3OP
reactant | 1-(3-amino-phenyl)-4-methyl-piperazin-2-one | 0.365 mmol, 75.0 mg | NC=1C=C(C=CC1)N1C(CN(CC1)C)=O | C11H15N3O
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0512 mmol, 28.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | 1-(3-{8-[4-(Dimethyl-phosphinoyl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino}-phenyl)-4-methyl-piperazin-2-one | CP(=O)(C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC=2C=C(C=CC2)N2C(CN(CC2)C)=O)C | C25H27N6O2P
